### PR TITLE
Cleanup ssralg and galois

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

This patch is extracted from #1125 but independent from the new structures.

##### Things done/to do

- ~[ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`~

- ~[ ] added corresponding documentation in the headers~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- [x] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: mathcomp/algebra/ssralg.v [hunk 1]
```diff
@@ -3113,7 +3110,7 @@ Proof. by move=> x Ux /=; rewrite mulrC mulVx. Qed.
 Fact mulC_unitP x y : y * x = 1 /\ x * y = 1 -> unit x.
 Proof. by case=> yx _; apply: unitPl yx. Qed.
 
-HB.instance Definition mulinverse : Ring_hasMulInverse R :=
+HB.instance Definition _ :=
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:3113]: I couldn't see the reason to name this instance. So I turned it into anonymous.

File: mathcomp/algebra/ssralg.v [hunk 2]
```diff
@@ -2730,7 +2728,7 @@ End ComAlgExports.
 HB.export ComAlgExports.
 
 Section AlgebraTheory.
-Variables (R : comRingType) (A : algType R).
+Variables (R : comRingType).
 #[export]
 HB.instance Definition converse_ : SemiRing_hasCommutativeMul R^c :=
   SemiRing_hasCommutativeMul.Build R^c (fun _ _ => mulrC _ _).
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:2734]: We can probably do the same for this and the following instances. Please remind me of the reason if I'm wrong.

File: mathcomp/algebra/ssralg.v [hunk 3]
```diff
@@ -1607,7 +1607,7 @@ End RightRegular.
 
 HB.mixin Record Zmodule_isLmodule (R : ringType) V of Zmodule V := {
   scale : R -> V -> V;
-  scalerA' : forall a b v, scale a (scale b v) = scale (a * b) v;
+  scalerA : forall a b v, scale a (scale b v) = scale (a * b) v;
```
Comment (proux01) [inline mathcomp/algebra/ssralg.v:1610]: Note that `sclerA'` and `scalerA` don't have exactly the same implicit arguments.

File: mathcomp/algebra/ssralg.v (hunk 2 above)
Comment (proux01) [reply mathcomp/algebra/ssralg.v:2734]: Agree, the `: SemiRing_hasCommutativeMul R^c` can probably also be removed.

File: mathcomp/algebra/ssralg.v [hunk 4]
```diff
@@ -6010,7 +6003,7 @@ Definition fmorph_char := fmorph_char.
 Definition fmorph_unit := fmorph_unit.
 Definition fmorphV := fmorphV.
 Definition fmorph_div := fmorph_div.
-Definition scalerA := scalerA.
+Definition scalerA := @scalerA.
```
Comment (proux01) [inline mathcomp/algebra/ssralg.v:6006]: Isn't that changing the implicits? If yes we need a changelog entry. CI seems happy so it's probably fine.

**Review by proux01 — APPROVED** [review]
Thanks, mostly looks good to me, I only have a question about the implicits of `scalerA`

**Comment by pi8027** [comment]
I confirm that this PR changes the implicit status of `GRing.scalerA` but not `GRing.Theory.scalerA`. So I think we should explicitly write an `Arguments` declaration for the former to avoid the change, at least for the moment.

Incidentally, I found that some lemmas have different implicit statuses between `GRing` and `GRing.Theory`. I think we should do something, but it is orthogonal to this PR.
```
Arguments GRing.addrA {s} x y z.
Arguments GRing.Theory.addrA [s] x y z.
```

**Comment by proux01** [comment]
> I confirm that this PR changes the implicit status of `GRing.scalerA` but not `GRing.Theory.scalerA`. So I think we should explicitly write an `Arguments` declaration for the former to avoid the change, at least for the moment.

Well, CI doesn't complain and there is a backward compatible change (with `@`) so I'd rather just mention the change in CHANGELOG_UNRELEASED.md

> Incidentally, I found that some lemmas have different implicit statuses between `GRing` and `GRing.Theory`. It means that adding `Import GRing.Theory` and removing the `GRing` prefix from the names of these lemmas may break stuff. I think we should do something regarding this point, but it is orthogonal to this PR.

Agree (with both points)

**Comment by pi8027** [comment]
> Well, CI doesn't complain and there is a backward compatible change (with `@`) so I'd rather just mention the change in CHANGELOG_UNRELEASED.md

For me, it's not clear what is the "right" implicit status of this lemma. So I would rather preserve the current behavior.

**Comment by proux01** [comment]
I think (and CI supports this) that we don't care that much here. I would have a small preference for maximally inserted. But I wouldn't argue against keeping them non maximally inserted.
Anyway, I let you update the PR and I'll merge.

**Comment by pi8027** [comment]
Done.
